* Z:\home\francisco\Workspace\catimex\current-meas\v0.2\ltspice\cm_ad4522_A.asc
V1 Vcc 0 5
C3 VBAT 0 .1µ
V3 VBAT 0 {V_BAT_P}
R3 N005 0 1 tol=0.01 pwr=100m
V2 Vee 0 -5
C1 Vcc 0 .1µ
C2 0 Vee .1µ
XU1 N013 N011 Vcc Vee N012 ADA4522
R4 N011 N007 20
R5 N012 N011 10k
R9 N008 N007 10k
R10 N009 N008 10k
R11 N010 N012 10k
XU3 N009 N010 Vcc Vee S1_OUT ADA4522
XU2 N006 N007 Vcc Vee N008 ADA4522
R12 S1_OUT N010 100k
R13 N009 0 100k
R1 S1_OUT 0 10k
IMCU VBAT N005 0 AC 1
R2 N004 N003 10k
R6 N003 S1_OUT 10k
C4 N004 0 1n
C5 N001 N003 1n
R7 N001 0 10k
XU4 N004 N001 Vcc Vee N001 ADA4522
R8 N006 N005 1k tol=0.01 pwr=100m
R14 N013 0 1k tol=0.01 pwr=100m
R15 N001 0 10k
* .step param V_BAT_P 2.5 3.0 0.1
.param V_BAT_P 4
.dc IMCU 0 250u 0.001u
* High Precision
* High Precision
* High Precision
* .ac dec 10 1 1G
.lib Z:\home\francisco\Downloads\ADA4522.cir
.backanno
.end
