* Z:\home\francisco\Workspace\catimex\current-meas\v0.2\ltspice\cm_ad8237_tlv272_A.asc
V1 Vcc 0 5
C3 VBAT 0 .1µ
V3 VBAT 0 {V_BAT_P}
R3 VBAT N002 1 tol=0.01 pwr=100m
IMCU N002 0 0
R1 N001 VBAT 10 tol=.1
XU1 Vcc VBAT N002 Vee Vcc 0 N003 N004 AD8237
V2 Vee 0 -5
R10 0 N003 1k
R11 N003 N004 100k
* .step param V_BAT_P 2.5 3.0 0.1
.param V_BAT_P 4
.dc IMCU 0 10u 0.001u
* 1st Stage x1000 gain, LTC6102 High Side Current Sense
.lib Z:\home\francisco\Downloads\AD8237.cir
.backanno
.end
