* Z:\home\francisco\Workspace\catimex\current-meas\v0.2\ltspice\sallen_key.asc
R5 N004 N003 10k
R6 N003 N002 10k
C2 N004 0 1n
C3 N001 N003 1n
R2 N001 0 10k
V1 Vcc 0 5
V2 N002 0 1 AC 1
V3 Vee 0 -5
XU1 N004 N001 Vcc Vee N001 ADA4522
.ac dec 10 1 1g
* Second order sallen key low pass filter, 10Khz
* Sallen key has a very low near 0 output impedance at DC
.lib Z:\home\francisco\Downloads\ADA4522.cir
.backanno
.end
